US09163012B2
2-((1-(2-adamantyloxycarbonyl)-4-phenylpiperidin-4-yl)methoxy)acetic acid
To a stirred solution of 2-adamantyl 4-((2-methoxy-2-oxoethoxy)methyl)-4-phenylpiperidine-1-carboxylate (17.5 mg, 0.04 mmol) in THF (0.5 mL) and MeOH (1 mL) were added LiOH.H2O (8.3 mg, 0.2 mmol) and water (0.5 mL). The mixture was stirred at rt for 18 h and submitted directly to prep HPLC. The product from prep HPLC (8.3 mg) was stirred gently with MP-carbonate resin (75 mg), MeOH (2 mL) and CH2Cl2 (2 mL) for 22 h. The mixture was filtered and the resin beads collected were resuspended in 20:1 CH2Cl2/TFA (5 mL) overnight. The mixture was filtered and the filtrate was concentrated to leave crude material (2.5 mg). This material was purified by prep HPLC to afford the title compound (0.75 mg). LC-MS Method 1 tR=2.12 min, m/z=428.

reactant | 2-adamantyl 4-((2-methoxy-2-oxoethoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.04 mmol, 17.5 mg | COC(COCC1(CCN(CC1)C(=O)OC1C2CC3CC(CC1C3)C2)C2=CC=CC=C2)=O | C26H35NO5
reactant | LiOH.H2O | 0.2 mmol, 8.3 mg | O[Li].O
reactant | water | 0.5 mL | O | H2O
reactant | MP-carbonate resin | 75 mg | CC[NH+](CC)CC.CC[NH+](CC)CC.C(=O)([O-])[O-]
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
solvent | MeOH | 2 mL | CO | CH4O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-((1-(2-adamantyloxycarbonyl)-4-phenylpiperidin-4-yl)methoxy)acetic acid | 0.75 mg | C12C(C3CC(CC(C1)C3)C2)OC(=O)N2CCC(CC2)(C2=CC=CC=C2)COCC(=O)O | C25H33NO5
